US06169091A
4-(4-Benzyloxyanilino)-6-(thiomorpholin-4-yl)-pyrido[3,4-d]pyrimidine
Prepared according to Procedure C from 4-(4-benzyloxyanilino)-6-chloropyrido[3,4-d]pyrimidine and thiomorpholine; δH (CDCl3) 9.00 (1H,s), 8.59 (1H,s), 7.59 (2H, d), 7.28-7.50 (5H,m), 7.03 (2H,d), 6.56 (1H,s), 5.09 (2H,s), 3.92-4.18 (4H,m), 2.62-2.92 (4H,m); m/z (M+1)+430.

reactant | 4-(4-benzyloxyanilino)-6-chloropyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(NC=2C3=C(N=CN2)C=NC(=C3)Cl)C=C1 | C20H15ClN4O
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 4-(4-Benzyloxyanilino)-6-(thiomorpholin-4-yl)-pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)OC1=CC=C(NC=2C3=C(N=CN2)C=NC(=C3)N3CCSCC3)C=C1 | C24H23N5OS
